US07795236B2
Tert-Butyl N-(2-hydroxybiphenyl-4-ylmethyl)carbamate
To a solution of 2-benzyloxybiphenyl-4-ylmethylamine (1.87 g) in tetrahydrofuran (25.8 mL) was added dropwise di-tert-butyl dicarbonate (1.93 mL), and the resulting mixture was stirred at room temperature for 13 hours. Then 10% palladium on carbon (56.2 wt % H2O, 0.854 g) was added and stirring was continued at room temperature for 10 hours under a hydrogen atmosphere. The insoluble material was filtered out and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=3/1) to give the title compound (1.77 g)

reactant | 2-benzyloxybiphenyl-4-ylmethylamine | 1.87 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CN)C1=CC=CC=C1 | C20H19NO
reactant | di-tert-butyl dicarbonate | 1.93 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 25.8 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.854 g | [Pd] | Pd
product | Tert-Butyl N-(2-hydroxybiphenyl-4-ylmethyl)carbamate | 1.77 g | OC1=C(C=CC(=C1)CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C18H21NO3
